Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
tetracycline
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with alcoholic cirrhosis currently undergoing 
liver transplant evaluation presented from urgent care with 2 
days of worsening abdominal pain, fever to 100.7. 

The pain is ___ and generalized over the lower belly. Has not 
felt any other symptoms whatsoever. No recent travel or dietary 
changes. No nausea/vomiting, urinary changes, diarrhea, 
hematochezia or melena. Mild constipation. 

He was diagnosed with liver cirrhosis in ___ when he 
presented with ascites, jaundice, and ___. He was admitted to ___ 
___ and underwent paracenteis, referred to ___, had another 
paracentesis. He underwent EGD which showed 2 antral ulcers. 
  
In the ED, initial vitals were:  99.9 80 ___ 100% RA
- Exam notable for:  
GEN: NAD
HEENT: Mild scleral icterus 
CV: RRR no MRG
RESP: CTAB 
ABD: Mildly tender to deep palpation. ? fluid wave present 

- Labs notable for:  T bili 3.5, lactate 1.5.  

- Imaging was notable for:  
___ RUQ Ultrasound
1. No biliary ductal dilatation.
2. Equivocal findings for acute cholecystitis. Grossly distended 
gallbladder containing a large amount of sludge and few 
gallstones with borderline thickened wall measuring 3 mm. Trace 
fluid between the gallbladder and the liver is nonspecific and 
could be related to liver disease or ascites. No sonographic 
___. If there is persistent concern, HIDA scan may be 
obtained for further evaluation.

___ CT Scan
1. No apparent acute findings within the abdomen or pelvis to 
explain the patient's reported symptoms.
2. Wall thickening of the ascending colon is likely secondary to 
portal hypertension, although colitis cannot be excluded. If 
suspected, it is likely infectious or inflammatory, although 
ischemic cannot be excluded.
3. Appendix not visualized. No clear evidence of appendicitis, 
although study is limited without IV contrast.
4. Sigmoid diverticulosis without evidence of diverticulitis 
within the limitations of an unenhanced scan.
5. Cirrhosis with splenomegaly and small volume abdominopelvic 
ascites.
6. Punctate nonobstructing stone in the lower pole of the left 
kidney.

- Patient was given:  1L Normal saline and 25% albumin

Upon arrival to the floor, patient confirms the above history. 
He reports slight abdominal pain but no pain with palpation.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and 
negative  

 
Past Medical History:
ALCOHOLIC CIRRHOSIS   
GASTROESOPHAGEAL REFLUX ___ 
ASCITES ___ Treated with 2 small volume paracentesis and 
1 large volume paracentesis, No spontaneous bacterial 
peritonitis 
ACUTE KIDNEY INJURY ___ 
HEPATIC ENCEPHALOPATHY controlled on Lactulose 
OSTEOPENIA 
 
Social History:
___
Family History:
Mother ___ ___ CHRONIC OBSTRUCTIVE PULMONARY DISEASE       
Father Living ___ MYOCARDIAL INFARCTION       
Sister Living   CROHN'S DISEASE 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  ___ 0843 Temp: 97.9 PO BP: 95/61 HR: 66 RR: 
18
O2 sat: 98% O2 delivery: Ra 
GENERAL:  middle aged man, lying down in bed, alert, pleasant,
NAD
HEENT:  ATNC
CARDIAC:  RRR, no murmurs
LUNGS:  CTAB, normal WOB
ABDOMEN:  soft, +BS, no tenderness with
palpation, negative ___ sign 
NEUROLOGIC:  alert, answering all questions appropriately
SKIN:  no rashes

DISCHARGE PHYSICAL EXAM:
VS 98.0 PO 119 / 68 53 18 99 Ra  
GENERAL:  middle aged man, lying down in bed, alert, pleasant, 
NAD
HEENT:  ATNC
CARDIAC:  RRR, no murmurs
LUNGS:  CTAB, normal WOB
ABDOMEN:  soft, +BS, no tenderness with
palpation, negative ___ sign 
NEUROLOGIC:  alert, answering all questions appropriately
SKIN:  no rashes
 
Pertinent Results:
ADMISSION LABS
-------------
___ 06:30PM BLOOD WBC-6.9 RBC-2.64* Hgb-9.0* Hct-26.6* 
MCV-101* MCH-34.1* MCHC-33.8 RDW-15.9* RDWSD-58.9* Plt ___
___ 06:30PM BLOOD Neuts-53.1 ___ Monos-10.4 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-3.68 AbsLymp-2.40 
AbsMono-0.72 AbsEos-0.06 AbsBaso-0.04
___ 06:30PM BLOOD ___ PTT-38.4* ___
___ 06:30PM BLOOD Glucose-117* UreaN-17 Creat-1.7* Na-139 
K-4.1 Cl-102 HCO3-26 AnGap-11
___ 06:30PM BLOOD ALT-15 AST-37 AlkPhos-94 TotBili-3.5* 
DirBili-0.9* IndBili-2.6
___ 06:30PM BLOOD Albumin-3.3* Calcium-9.5 Phos-3.3 Mg-1.7
___ 06:47PM BLOOD Lactate-1.5

___ RUQUS
1. No biliary ductal dilatation. 
2. Equivocal findings for acute cholecystitis. Grossly distended 
gallbladder containing a large amount of sludge and few 
gallstones with borderline thickened wall measuring 3 mm. Trace 
fluid between the gallbladder and the liver is nonspecific and 
could be related to liver disease or ascites. No sonographic 
___. If there is persistent concern, HIDA scan may be 
obtained for further evaluation. 

___ CT ABD
1. No apparent acute findings within the abdomen or pelvis to 
explain the 
patient's reported symptoms. 
2. Wall thickening of the ascending colon is likely secondary to 
portal 
hypertension, although colitis cannot be excluded. If suspected, 
it is likely infectious or inflammatory, although ischemia 
cannot be excluded. 
3. Cirrhosis with splenomegaly and small volume abdominopelvic 
ascites. 
4. 2.2 cm partially exophytic lesion in hepatic segment IV B 
grossly 
unchanged, better characterized on the MRI of ___ and 
felt to 
represent a regenerative nodule or early hepatocellular 
carcinoma. Agree with close interval follow-up in 3 months from 
the date of the MR as previously recommended. 
5. Punctate nonobstructing stone in the lower pole of the left 
kidney. 

___ HIDA
IMPRESSION:  Normal hepatobiliary scan.

DISCHARGE LABS
---------------
___ 07:05AM BLOOD WBC-5.5 RBC-2.31* Hgb-8.0* Hct-23.6* 
MCV-102* MCH-34.6* MCHC-33.9 RDW-16.0* RDWSD-60.2* Plt ___
___ 07:05AM BLOOD Neuts-44.4 ___ Monos-12.7 Eos-1.4 
Baso-0.4 Im ___ AbsNeut-2.45 AbsLymp-2.26 AbsMono-0.70 
AbsEos-0.08 AbsBaso-0.02
___ 07:05AM BLOOD Glucose-116* UreaN-14 Creat-1.4* Na-141 
K-3.9 Cl-104 HCO3-20* AnGap-17
___ 07:05AM BLOOD ALT-13 AST-29 AlkPhos-66 TotBili-4.3*
___ 07:05AM BLOOD Albumin-3.2* Calcium-9.1 Phos-3.4 Mg-1.___ with alcoholic cirrhosis currently undergoing liver 
transplant evaluation who presented with 2 days of worsening 
abdominal pain, with RUQUS findings concerning for 
cholecystitis.

#Fever
#Abdominal pain
#Cholelithiasis
Unclear etiology. Not enough ascites fluid to be tapped. RUQUS 
was initially equivocal for cholecystitis, showing distended 
gallbladder and a few gallstones. However, ___ sign 
negative, CT abdomen without evidence of cholecystitis, and HIDA 
scan normal. Gastroenteritis and colitis less likely given lack 
of symptoms. Patient's symptoms resolved and he was able to 
tolerate lunch without difficulty. Transplant surgery was 
consulted and agreed that patient could be discharged home 
without further intervention.

#Chronic kidney disease
Patient presented with Cr of 1.7. Baseline 1.5. Cr down to 1.4 
after albumin in ED. 

#Macrocytic Anemia
Patient has chronic macrocytic anemia, likely iso cirrhosis and 
previous alcohol use. B12 elevated on previous check in ___.

#Gastric ulcers
Seen on previous EGD.
Continued home omeprazole

#Elevated INR
Likely iso malnutrition and liver disease.

TRANSITIONAL ISSUES
--------------------
[] patient has an appointment with cardiology on ___ for 
cardiac clearance for surgery.
[] follow up with hepatology
[] CBC should be monitored for worsening anemia
[] 2.2 cm partially exophytic lesion in hepatic segment IV B 
seen on CT abdomen ___, also on MRI ___ will need to be 
monitored

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 15 mL PO Q8H:PRN bowel movements 
2. Omeprazole 20 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Lactulose 15 mL PO Q8H:PRN bowel movements  
2.  Omeprazole 20 mg PO DAILY  
3.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
---------
Abdominal pain
Fever
Cholelithiasis
Alcohol cirrhosis

Secondary
-----------
Macrocytic anemia
Gastric ulcers

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You presented to ___ because you were having 
abdominal pain.

-While in the hospital, you had an ultrasound and CT scan of 
your abdomen.
-Although there was initial concern that you may have a 
gallbladder infection, your symptoms resolved without treatment. 
The imaging did not show any evidence of gallbladder 
inflammation or infection. 
-You were seen by our transplant surgery and GI teams; they 
determined that you do not need additional testing at this time.

After you leave the hospital, it is important that you follow up 
with your doctors in ___.

We wish you the best,

Your ___ medicine team
 
Followup Instructions:
___